US08877760B2
To a mixture of tert-butyl (3R,4R)-4-(6-chloro-5-cyanopyrazin-2-ylamino)tetrahydro-2H-pyran-3-ylcarbamate (100 mg, 0.28 mmol) in Dioxane (2 mL) was added p-toluidine (37 mg, 0.35 mmol), Pd(OAc)2 (13 mg, 0.056 mmol), BINAP (35 mg, 0.056 mmol) and K2CO3 (116 mg, 0.84 mmol). After heating at 95° C. for 4 h, the mixture was filtered, the filtrate was concentrated and purified by preparative HPLC to give tert-butyl (3R,4R)-4-(5-cyano-6-(p-tolylamino)pyrazin-2-ylamino)tetrahydro-2H-pyran-3-ylcarbamate (53 mg).

reactant | tert-butyl (3R,4R)-4-(6-chloro-5-cyanopyrazin-2-ylamino)tetrahydro-2H-pyran-3-ylcarbamate | 0.28 mmol, 100 mg | ClC1=C(N=CC(=N1)N[C@H]1[C@H](COCC1)NC(OC(C)(C)C)=O)C#N | C15H20ClN5O3
reactant | p-toluidine | 0.35 mmol, 37 mg | NC1=CC=C(C=C1)C | C7H9N
reactant | BINAP | 0.056 mmol, 35 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | K2CO3 | 0.84 mmol, 116 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | Dioxane | 2 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(OAc)2 | 0.056 mmol, 13 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | tert-butyl (3R,4R)-4-(5-cyano-6-(p-tolylamino)pyrazin-2-ylamino)tetrahydro-2H-pyran-3-ylcarbamate | 53 mg | C(#N)C=1N=CC(=NC1NC1=CC=C(C=C1)C)N[C@H]1[C@H](COCC1)NC(OC(C)(C)C)=O | C22H28N6O3
